US03962277
A mixture of 1.8 g (5 mmoles) of phenoxymethylpenicillin-S-sulphoxide and 6.6 g (30 mmoles) of N-trimethylsilylphthalimide in 35 ml of dimethylacetamide was heated at 100°C for 2 hours. The reaction mixture (containing 1-(1-trimethylsilyloxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothioazetidin-2-one) was evaporated to dryness, treated with 30 ml of dichloromethane and filtered. The filtrate was concentrated and purified by chromatography on a silica gel column impregnated with 1% acetic acid, using a 4:1 (v/v) mixture of toluene and acetone with 0.5% acetic acid as an eluent. There was obtained 1-(1-carboxy-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one.

reactant | N-trimethylsilylphthalimide | 30 mmoles, 6.6 g | C[Si](N1C(C=2C(C1=O)=CC=CC2)=O)(C)C | C11H13NO2Si
reactant | 1-(1-trimethylsilyloxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothioazetidin-2-one | C[Si](OC(=O)C(C(=C)C)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O)(C)C | C27H29N3O7SSi
solvent | dimethylacetamide | 35 ml | CC(=O)N(C)C | C4H9NO
product | 1-(1-carboxy-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one | C(=O)(O)C(C(=C)C)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O | C24H21N3O7S
